US06784183B2
2-Methoxy-5-(4-methyl-1-piperazinyl)benzoyl azide
A solution of 25 mmol (5.3 g) of phenyl dichlorophosphate in 100 ml of dichloromethane is added to a solution of 20 mmol (5 g) of 4-methoxy-3-(4-methyl-1-piperazinyl)benzoic acid (described in J. Med. Chem., 1994, 37, p.2255) and 50 mmol (3.25 g) of sodium azide in 4.05 ml of pyridine. After stirring for 12 hours at ambient temperature, the organic phase is washed with 100 ml of water, dried over magnesium sulphate and concentrated to yield the expected product.

reactant | phenyl dichlorophosphate | 25 mmol, 5.3 g | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | 4-methoxy-3-(4-methyl-1-piperazinyl)benzoic acid | 20 mmol, 5 g | COC1=C(C=C(C(=O)O)C=C1)N1CCN(CC1)C | C13H18N2O3
reactant | sodium azide | 50 mmol, 3.25 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | pyridine | 4.05 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methoxy-5-(4-methyl-1-piperazinyl)benzoyl azide | COC1=C(C(=O)N=[N+]=[N-])C=C(C=C1)N1CCN(CC1)C | C13H17N5O2
